US03937718
Benzoic acid t-butyl ester
To a mixture of 0.74 g. of t-butanol, 1.22 g. of benzoic acid, 3.32 g. of 2,2'-dibenzothiazolyl disulfide and 50 ml. of methylene chloride is added dropwise a solution of 2.62 g. of triphenyl phosphine in 20 ml. of methylene chloride while stirring at room temperature. After completion of the addition, the mixture is stirred at room temperature for an additional 5 hours. The reaction mixture is treated with the same procedure as in Example 1 (1) to give 1.35 g. of the desired product boiling at 75°C/3 mmHg.

reactant | t-butanol | C(C)(C)(C)O | C4H10O
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2,2'-dibenzothiazolyl disulfide | C1=CC=C2C(=C1)N=C(S2)SSC3=NC4=CC=CC=C4S3 | C14H8N2S4
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Benzoic acid t-butyl ester | C(C)(C)(C)OC(C1=CC=CC=C1)=O | C11H14O2
